US06353013B1
5-(R)-(4-bromobenzyl)-3-(5-acetamino-3-chlorophenyl)-5-methylimidazoline-2,4-dione (prepared by the process described in Example 1 from the isocyanate derivative of (R)-α-methyl-4-bromophenylalanine methyl ester and 5-acetamino-3-chloroaniline) was hydrolyzed by heating in 2N HCl to give 5-(R)-(4-bromobenzyl)-3-(5-amino-3-chlorophenyl)-5-methylimidazoline-2,4-dione. Sandmeyer reaction with NaNO2, CuCN and KCN provided the title compound as a resin.

reactant | 5-(R)-(4-bromobenzyl)-3-(5-acetamino-3-chlorophenyl)-5-methylimidazoline-2,4-dione | BrC1=CC=C(C[C@@]2(C(N(C(N2)=O)C2=CC(=CC(=C2)NC(=O)C)Cl)=O)C)C=C1 | C19H17BrClN3O3
reactant | isocyanate | [N-]=C=O
reactant | (R)-α-methyl-4-bromophenylalanine methyl ester | COC([C@](N)(CC1=CC=C(C=C1)Br)C)=O | C11H14BrNO2
reactant | 5-acetamino-3-chloroaniline | N(C(=O)C)C=1C=C(C=C(N)C1)Cl | C8H9ClN2O
solvent | HCl | 2N | Cl | ClH
product | 5-(R)-(4-bromobenzyl)-3-(5-amino-3-chlorophenyl)-5-methylimidazoline-2,4-dione | BrC1=CC=C(C[C@@]2(C(N(C(N2)=O)C2=CC(=CC(=C2)N)Cl)=O)C)C=C1 | C17H15BrClN3O2
